US03948931
10 ml of a 20% solution of dimethylamine in dioxane is added at 25° to a solution of 0.705 g (0.002 mole) of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxylic acid methyl ester in 10 ml of methanol. After 24 hours, the reaction mixture is concentrated by evaporation, and the residue crystallised from ethyl acetate/petroleum ether to obtain N,N-dimethyl-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxamide, M.P. 180°-181°.

reactant | dimethylamine | CNC | C2H7N
reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxylic acid methyl ester | 0.002 mole, 0.705 g | COC(=O)C1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C18H13ClN4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | N,N-dimethyl-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxamide | CN(C(=O)C1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)C | C19H16ClN5O
